US04159331
In the manner given in Example 1A, p-nitrobenzenesulfonyl chloride, 1-[[(3-propoxy-5-fluorophenyl)amino]carbonyl]piperazine and triethylamine are stirred at reflux to give 1-[(p-nitrophenyl)-sulfonyl]-4-[[(3-propoxy-5-fluorophenyl)amino]-carbonyl]piperazine.

reactant | p-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 1-[[(3-propoxy-5-fluorophenyl)amino]carbonyl]piperazine | C(CC)OC=1C=C(C=C(C1)F)NC(=O)N1CCNCC1 | C14H20FN3O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[(p-nitrophenyl)-sulfonyl]-4-[[(3-propoxy-5-fluorophenyl)amino]-carbonyl]piperazine | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)NC1=CC(=CC(=C1)F)OCCC | C20H23FN4O6S
